US07230121B2
1-oxo-thioxanthen-9-one
To a well stirred solution of 10.3 g of thioxanthen-9-one in 100 ml of glacial acetic acid at 80° C. 5 ml of hydrogen peroxide (35%) was added dropwise. The solution was stirred for 30 minutes, and then concentrated under reduced pressure and additional dichloromethane was added. The organic phase was washed with a solution of sodium hydroxide and then with water. After drying (Na2SO4) the solvent was removed under vacuum and 11 g of an oil were obtained. The oil was purified with a flash chromatography (SiO2) eluting with CH2Cl2 and CH2Cl2/Ethyl acetate 9:1; 8.44 g of a yellow solid were obtained in a yield of 72%.

reactant | thioxanthen-9-one | 10.3 g | C1=CC=CC=2SC3=CC=CC=C3C(C12)=O | C13H8OS
reactant | hydrogen peroxide | 5 ml | OO | H2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-oxo-thioxanthen-9-one | 11 g | O=C1CC=CC=2SC3=CC=CC=C3C(C12)=O | C13H8O2S
